Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headaches and nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ male with hx CAD s/p CABG in ___ on 
aspirin and Plavix who presents to ___ on ___ 
with bilateral acute on chronic SDH. Patient reports that 
approximately 4 weeks ago he attempted to sit in rolling chair 
when the chair moved from underneath him, patient fell with
+headstrike. No LOC at that time. Patient did not seek medical 
attention at the time of injury. Patient states that he had 
ongoing headaches thereafter, alleviated with Tylenol and rest, 
as well as intermitted nausea without vomiting. Patient reports 
that in the evening of ___, was experiencing worsening headache 
that was unrelieved by rest. In the morning of ___, patient
states that headache was worse and had 1 episode of emesis. 
Patient presented to ___ ED for evaluation. ___ revealed 
bilateral acute on chronic SDH. Neurosurgery was consulted for 
recommendations. 

Patient denies weakness, numbness/tingling, difficulty 
ambulating, or visual changes
 
Past Medical History:
Hypertension
Hypercholesteremia
Positive PPD
Lesion RUL lung - followed by CXR
Coronary artery disease s/p 5v CABG (___), DES+balloon 
angioplasty ___ 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ON ADMISSION: ___
===========================
Physical Exam:

O:  T: 98.7, BP: 141/57, HR: 51, RR: 18, O2 Sat: 98% RA

GCS at the scene: __unknown___

GCS upon Neurosurgery Evaluation: 15       
Time of evaluation: 1230

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: normocephalic, nontraumatic
Neck: supple, trachea midline
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2mm
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Slight right NLFF. Facial strength and sensation intact
and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

ON DISCHARGE:
=========================
24 HR Data (last updated ___ @ 942)
    Temp: 97.9 (Tm 98.7), BP: 170/72 (129-171/65-79), HR: 54
(46-58), RR: 18 (___), O2 sat: 97% (96-99), O2 delivery: Ra   
General: awake and alert, in no acute distress
HEENT: NC/AT, sclera anicteric and without injection 
CV: normal rate, regular rhythm, normal S1 and S2, no m/r/g  
Lungs: breathing comfortably on room air, CTAB 
Abdomen: Soft, non-tender, non-distended no r/g/r 
Ext: WWP, no ___ edema
Neuro: A&Ox3, PERRL, CNII-XII intact, strength ___ b/l in upper
and lower extr
 
Pertinent Results:
ADMISSION LABS
___ 11:30AM BLOOD WBC-8.5 RBC-4.95 Hgb-14.5 Hct-44.9 MCV-91 
MCH-29.3 MCHC-32.3 RDW-13.4 RDWSD-43.8 Plt ___
___ 11:30AM BLOOD Neuts-72.8* Lymphs-17.8* Monos-7.0 
Eos-1.3 Baso-0.9 Im ___ AbsNeut-6.16* AbsLymp-1.51 
AbsMono-0.59 AbsEos-0.11 AbsBaso-0.08
___ 11:30AM BLOOD ___ PTT-32.0 ___
___ 11:30AM BLOOD Glucose-111* UreaN-16 Creat-1.1 Na-136 
K-4.8 Cl-99 HCO3-25 AnGap-___
Bilateral subdural collections overlying the cerebral 
hemispheres measure up to 9 mm in greatest axial ___ 
(02:15).  The collections are 
predominantly hypodense, with areas of hyperdensity, which are 
predominantly within the left collection.  The sulci of the 
bilateral cerebral hemispheres are effaced.  There is also 
effacement of the basilar cisterns and occipital horns of the 
bilateral ventricles.  There is no evidence of infarction. The 
visualized portion of the paranasal sinuses, mastoid air cells, 
and middle 
ear cavities are clear.  The visualized portion of the orbits 
are normal. 
IMPRESSION
Acute on chronic, bilateral subdural hematomas, with effacement 
of the basilar cisterns, concerning for downward transtentorial 
herniation. 
  
Head CT ___
Bilateral subdural collections overlying the cerebral 
hemispheres measure up to 1.1 cm in greatest axial dimension, 
previously 0.7 cm (02:16).  The 
collections are of mixed density, with areas of hyperdensity 
most notably 
within the left collection.  Specifically, there has been 
interval increase in size of the left parietal hyperdense 
collection, which measures up to 0.9 cm, previously 0.6 cm 
(02:21). 
There is effacement of the sulci bilaterally.  The degree of 
cisternal 
effacement is probably not significantly changed, when 
accounting for 
technical differences in slice selection. 
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle ear cavities are clear.  The visualized 
portion of the orbits are normal.  
IMPRESSION:  
1. Interval increase in size of acute on chronic bilateral 
subdural hematomas, 
as detailed above. 
2. Degree of cisternal effacement, concerning for downward 
transtentorial 
herniation, is probably not significantly changed when 
accounting for 
technical differences in slice selection. 

Head CT ___
Mixed attenuation bilateral subdural hematomas are again 
demonstrated with 
similar degree of sulcal effacement and mass effect on the 
ventricles, and 
partial effacement of the suprasellar cistern.  9 mm hyperdense 
component in the left parietal region is similar to the most 
recent previous exam as well. No evidence of involving 
infarction. 
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle ear cavities are clear.  The visualized 
portion of the orbits are normal.   
IMPRESSION:  
1. Redemonstration of bilateral mixed attenuation acute on 
chronic bilateral 
subdural hematomas which are similar in size to the most recent 
previous 
examination, with similar degree of associated mass effect and 
partial 
effacement of the basal cisterns raising the possibility of 
descending 
transtentorial herniation. 

TTE ___
The left atrial volume index is mildly increased. The right 
atrium is mildly enlarged. There is apical left
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic
function. Overall left ventricular systolic function is 
hyperdynamic. Quantitative biplane left ventricular
ejection fraction is 77 % (normal 54-73%). There is no resting 
left ventricular outflow tract gradient.
There is Grade I diastolic dysfunction. Normal right ventricular 
cavity size. Tricuspid annular plane systolic
excursion (TAPSE) is normal. The aortic sinus diameter is normal 
for gender with a mildly dilated ascending
aorta. The aortic arch diameter is normal with a normal 
descending aorta diameter. There is no evidence for
an aortic arch coarctation. The aortic valve leaflets (3) are 
mildly thickened. The mitral valve leaflets appear
structurally normal with no mitral valve prolapse. There is no 
mitral regurgitation. The pulmonic valve leaflets
are not well seen. There is no tricuspid regurgitation. There is 
a trivial pericardial effusion.
IMPRESSION: Suboptimal image quality. Apical hypertrophic 
cardiomyopathy without evidence of
apical aneurysm. Hyperdynamic global systolic function. No 
clinically-significant valvular disease
seen.

DISCHARGE LABS
___ 04:44AM BLOOD WBC-9.4 RBC-4.07* Hgb-12.0* Hct-36.8* 
MCV-90 MCH-29.5 MCHC-32.6 RDW-13.2 RDWSD-43.9 Plt ___
___ 04:44AM BLOOD Glucose-81 UreaN-14 Creat-0.8 Na-138 
K-4.2 Cl-103 HCO3-24 AnGap-11
___ 04:44AM BLOOD Mg-2.___RIEF HOSPITAL COURSE
Mr. ___ presented to ___ ED with complaints of headaches and 
nausea since an admitted fall >4 weeks ago with headstrike. 
While in the ED CTH revealed bilateral acute on chronic SDHs for 
which he was monitored. His course was complicated by a type II 
NSTEMI in the setting of hypertensive emergency, which was 
medically managed per cardiology. 

TRANSITIONAL ISSUES
New Medications:
Levetiracetam 1000 MG twice a day
Amlodipine 5MG
Carvedilol 6.25MG BID
Oxycodone 5MG daily PRN for breakthrough pain

Changed Medications:
None

Stopped/Held Medications:
Clopidogrel
Metoprolol succinate

[ ] F/u with neurosurgery, also recommended for repeat 
non-contrast head CT 2 weeks post-discharge
[ ] Started on levetiracetam for seizure prophylaxis with 7 day 
course to complete ___
[ ] F/u blood pressure control and need for medication 
titration. Amlodipine 5MG started while inpatient. Transitioned 
from metoprolol succinate to carvedilol 6.25 MG BID with first 
dose after discharge per discussion with cardiology. Systolic BP 
should be controlled to at least <160 per neurosurgery, with 
inpatient cardiology evaluation recommending target range 
120s-130s
[ ] Recommended for outpatient cardiac MRI by cardiology
[ ] Clopidogrel discontinued given SDH and ___ year since most 
recent PCI. Continued on aspirin
[ ] Recommended for cardiac rehabilitation referral
[ ] Patient received oxycodone 5MG for pain while inpatient, 
which was weaned to q12H PRN for breakthrough prior to 
discharge. This was weaned to once a day PRN for breakthrough 
pain on discharge with plan to taper off, and he was provided 
only 3 tablets. Counseled that if having significantly worsened 
headaches from prior, he should seek medical evaluation.

#Bilateral subdural hemorrhages s/p fall
Patient was admitted from the ED for acute on chronic bilateral 
SDH seen on CT on ___. Initially admitted to the neurosurgery 
service, transferred to the ___ for close neurological 
monitoring. Prior to the transfer to the ___ patient was given 
2 units of platelets given the fact that he was taking Plavix 
and Aspirin at home. Aspirin and clopidogrel were both held on 
admission; aspirin subsequently resumed on ___, continued to 
hold clopidogrel. Patient remained neurologically stable and was 
made NPO at the time of admission. Patient was started on Keppra 
1G BID for seizure prophylaxis. On ___ patient underwent a 
repeat CTH early AM, which revealed slight progression of 
bilateral SDHs. Patient remained neurologically stable while in 
the ___ and was transitioned to a regular diet. Patient with 
increased nausea on ___ afternoon with an episode of emesis. 
Patient given antiemetics and nausea resolved. Patient able to 
tolerate a PO diet for dinner on ___. On ___ patient exam 
remained stable, with good control of headaches, and resolved 
nausea. Discussions were had with family regarding proceeding 
with MMA embolization multiple times. Due to the patient's 
NSTEMI an MMA embolization was offered so the patient could 
receive anticoagulation however the family declined on ___. A 
repeat head CT on ___ showed stable status of his subdural 
hematoma. Neurosurgery recommended BP control to <160 in setting 
of SDH; in addition to home lisinopril, amlodipine was started 
prior to discharge. Due to continued blood pressures 
intermittently ranging up to 170, metoprolol was switched to 
carvedilol on discharge per discussion with cardiology and 
neurosurgery. The patient remained clinically stable without any 
new focal neurological deficits and was discharged with plan for 
outpatient follow-up.

#Type II NSTEMI in setting of hypertensive emergency 
#s/p CABG x5 w/ PCI ___
#HTN, HLD
Patient is followed by Atrius cardiology who was consulted at 
the time of patients admission to the ___. Dr. ___ 
answered the consult who is patient's primary cardiologist. Dr. 
___ that patient is greater than one year from last 
cardiac stent placement therefore it is safe to discontinue the 
Plavix in the setting of bilateral SDHs. Dr. ___ 
recommended holding the Aspirin 81mg until neurosurgery 
recommends restarting from a safety perspective with known SDHs. 
Cardiology was also consulted in the setting of bradycardia. 
Patient takes home metoprolol succinate 50mg daily and this was 
initially held while in the hospital if HR was <60 which was 
daily. His BP was initially controlled while inpatient with prn 
hydralazine. The cardiologist recommended continuing to hold 
metoprolol while on bedrest and if his HR normalized when 
patient mobilizing then resume it at that time. The patient was 
cleared by neurosurgery to start his Aspirin and the family 
refused. On the evening of ___ the patient's telemetry alarmed 
for ST elevation. EKG showed NSR with LVH. PRN hydralazine was 
ordered for BP parameters given low HR on patient's home 
metoprolol. Patient was triggered for tachycardia, diaphoresis, 
and chest pain. EKG at that time was stable and labs WNL. 
Tachycardia was attributed to recent hydral administration and 
PRN was switched to Labetalol. Cardiology came to the bedside 
given symptoms and he was given Nitro and resumed IV metoprolol 
q6h. At 2am the cycled troponin came back elevated to 0.75. 
Cardiology came to the bedside again. At this time patient was 
free of chest pain. Repeat EKG showed t wave inversions. His 
metoprolol dose was increased and he was given 81mg of aspirin. 
He was started on a nitro gtt and transferred to the MICU for 
NSTEMI. Repeat troponin at 6am increased to 0.8. An ECHO showed 
EF 77%. Troponin trended down to 0.61 and per discussion with 
cardiology an MMA embolization would allow patient to be 
anticoagulated if needed from a cardiac standpoint. An MMA 
embolization was offered to the patient on ___ and the family 
declined. He was transferred to the floor on ___ for further 
monitoring of blood pressure. BP remained elevated as discussed 
above, and amlodipine was started while inpatient; he was also 
planned to switch from metoprolol to carvedilol 6.25MG BID after 
discharge for further BP reduction per cardiology 
recommendation. He was continued on aspirin and discharge, while 
clopidogrel was held recent bleed and ___ year since last PCI.

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
aspirin 81mg QD, Plavix 75mg every other day, lisinopril 20mg 
BID, metoprolol 50mg ER QD, rosuvastatin 20mg QD, Tylenol PRN
 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  CARVedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
3.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*2 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO DAILY:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Lisinopril 20 mg PO BID  
7.  Rosuvastatin Calcium 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Bilateral acute on chronic SDH
Hypertensive emergency
Type II Non-ST elevation myocardial ischemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for headaches and nausea and were found to 
have a bleed (subdural bleed) around your brain 
 
What was done for me while I was in the hospital?  
- You were monitored by the neurosurgery team and had repeat CT 
scans to monitor your subdural bleed. Your plavix was stopped to 
prevent further risk of bleeding. 
- You were evaluated by the cardiology team after you had 
ischemia (decreased blood flow) to your heart due to high blood 
pressures. Your blood pressure was controlled with medication.
- You were offered a procedure known as Middle Meningeal Artery 
Embolization to help stop the brain bleed, which would allow for 
anticoagulation to deal with the ischemia of your heart. Per 
conversations with your family you opted not to have this 
procedure. 

What should I do when I leave the hospital?  
 Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 
Medications 
• You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

Sincerely,  
Your ___ Care Team  

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___